US08236806B2
1-(bis(4-fluorophenyl)methyl)-4-(3-(1-phenyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)propyl)piperazine (Compound 120)
65 mg (78%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)-propanal (40 mg, 0.142 mmol), 1-(bis(4-fluorophenyl)methyl)piperazine (41 mg, 0.142 mmol), DIPEA (0.040 mL, 0.213 mmol) and NaBH(OAc)3 (90 mg, 0.573 mmol).

reactant | 3-(1-phenyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)-propanal | 0.142 mmol, 40 mg | C1(=CC=CC=C1)N1N=C(C=C1C=1SC=CC1)CCC=O | C16H14N2OS
reactant | 1-(bis(4-fluorophenyl)methyl)piperazine | 0.142 mmol, 41 mg | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | DIPEA | 0.213 mmol, 0.040 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.573 mmol, 90 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(bis(4-fluorophenyl)methyl)-4-(3-(1-phenyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)propyl)piperazine | FC1=CC=C(C=C1)C(N1CCN(CC1)CCCC1=NN(C(=C1)C=1SC=CC1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C33H32F2N4S
